US05576343
1.0 g of ethyl 3-(5-amidinobenzo[b]thien-2-yl)-2-[4-[((3S)-3-pyrrolidinyl)oxy]phenyl]propionate dihydrochloride was dissolved in 15 ml of ethanol. To this solution was added 773 mg of ethyl benzimidate hydrochloride which has been prepared by allowing benzonitrile to react with ethanol in the presence of hydrogen chloride. 631 mg of triethylamine was added to the thus prepared solution during stirring under ice cooling, and the mixture was warmed up to room temperature, and stirred for 18 hours. Thereafter, the solvent was distilled off to obtain ethyl 3-(5-amidinobenzo[b]thien-2-yl)-2-[4-[((3S)-1-benzimidoyl-3-pyrrolidinyl)oxy]phenyl]propionate dihydrochloride. The thus obtained ester compound was dissolved in 60 ml of 3N hydrochloric acid and refluxed under heating for 30 minutes. After distilling off the solvent, the resulting residue was subjected to column chromatography using a column packed with a highly porous polymer type synthetic adsorbent (styrene-divinylbenzene polymer: Diaion HP-20) and using a water/acetonitrile mixture as an elution solvent. Fractions of interest were pooled and concentrated, and the resulting residue was subjected to reversed phase high performance liquid chromatography using a column packed with octadecyl-bonded silica gel and using a water/acetonitrile mixture as an elution solvent. Thereafter, the thus eluted fractions of interest were pooled, mixed with dilute hydrochloric acid, and then concentrated to dryness. In this way, 350 mg of the title compound was obtained in the form of a light yellow solid.

reactant | ethyl 3-(5-amidinobenzo[b]thien-2-yl)-2-[4-[((3S)-3-pyrrolidinyl)oxy]phenyl]propionate dihydrochloride | 1.0 g | Cl.Cl.C(N)(=N)C1=CC2=C(SC(=C2)CC(C(=O)OCC)C2=CC=C(C=C2)O[C@@H]2CNCC2)C=C1
reactant | ethyl benzimidate hydrochloride | 773 mg | Cl.C(C1=CC=CC=C1)(OCC)=N
reactant | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | triethylamine | 631 mg | C(C)N(CC)CC | C6H15N
product | ethyl 3-(5-amidinobenzo[b]thien-2-yl)-2-[4-[((3S)-1-benzimidoyl-3-pyrrolidinyl)oxy]phenyl]propionate dihydrochloride | Cl.Cl.C(N)(=N)C1=CC2=C(SC(=C2)CC(C(=O)OCC)C2=CC=C(C=C2)O[C@@H]2CN(CC2)C(C2=CC=CC=C2)=N)C=C1 | InChI=1S/C31H32N4O3S.2ClH/c1-2-37-31(36)27(18-26-17-23-16-22(29(32)33)10-13-28(23)39-26)20-8-11-24(12-9-20)38-25-14-15-35(19-25)30(34)21-6-4-3-5-7-21;;/h3-13,16-17,25,27,34H,2,14-15,18-19H2,1H3,(H3,32,33);2*1H/t25-,27?;;/m0../s1
